US06787543B2
(6R,9aR)-6-Benzhydryl-8-(tert-butoxycarbonyl)octahydropyrazino[2,1-c][1,4]oxazine was treated with 4N hydrogen chloride in 1,4-dioxane to give (6R,9aR)-octahydro-6-benzhydrylpyrazino[2,1-c][1,4]oxazine dihydrochloride as a yellowish powder. (6R,9aR)-6-Benzhydryl-8-[2-methoxy-5-[5-(trifluoromethyl)-1H-tetrazol-1-yl]benzyl]octahydropyrazino[2,1-c][1,4]oxazine dihydrochloride was obtained from (6R,9aR)-6-benzhydrylhexahydropyrazino[2,1-c][1,4]oxazine dihydrochloride according to a similar manner to that of Example 2.

reactant | (6R,9aR)-6-Benzhydryl-8-(tert-butoxycarbonyl)octahydropyrazino[2,1-c][1,4]oxazine | C(C1=CC=CC=C1)(C1=CC=CC=C1)[C@@H]1CN(C[C@@H]2COCCN21)C(=O)OC(C)(C)C | C25H32N2O3
reactant | hydrogen chloride | 4N | Cl | ClH
solvent | 1,4-dioxane | O1CCOCC1 | C4H8O2
product | (6R,9aR)-octahydro-6-benzhydrylpyrazino[2,1-c][1,4]oxazine dihydrochloride | Cl.Cl.C(C1=CC=CC=C1)(C1=CC=CC=C1)[C@@H]1CNC[C@@H]2COCCN21 | InChI=1S/C20H24N2O.2ClH/c1-3-7-16(8-4-1)20(17-9-5-2-6-10-17)19-14-21-13-18-15-23-12-11-22(18)19;;/h1-10,18-21H,11-15H2;2*1H/t18-,19+;;/m1../s1
